US08703761B2
N-(5-Benzyl-4-phenyl-thiazol-2-yl)-2-(4-fluoro-benzenesulfonylamino)-2-methyl-propionamide
2-Amino-N-(benzyl-4-phenyl-thiazol-2-yl)-2-methyl-propionamide (100 mg, 0.3 mmol), 4-Fluoro-benzensulfonyl chloride (80 mg, 0.4 mmol) and triethyl amine (85 μL, 1 mmol) were stirred a solution in DMF (5 mL). Purification via HPLC afforded the title compound. 1H NMR (400 MHz, DMSO-D6) δ 1.31 (s, 6H) 4.21 (s, 2H) 7.20-7.26 (m, 3H) 7.28-7.39 (m, 5H) 7.45 (s, 2H) 7.62 (d, J=7.07 Hz, 2H) 7.85 (s, 2H) 7.95 (s, 1H) 11.80 (s, 1H). m/z 510.1 (MH+).

reactant | 2-Amino-N-(benzyl-4-phenyl-thiazol-2-yl)-2-methyl-propionamide | 0.3 mmol, 100 mg | NC(C(=O)NC=1SC(=C(N1)C1=CC=CC=C1)CC1=CC=CC=C1)(C)C | C20H21N3OS
reactant | 4-Fluoro-benzensulfonyl chloride | 0.4 mmol, 80 mg | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | triethyl amine | 1 mmol, 85 μL | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-(5-Benzyl-4-phenyl-thiazol-2-yl)-2-(4-fluoro-benzenesulfonylamino)-2-methyl-propionamide | C(C1=CC=CC=C1)C1=C(N=C(S1)NC(C(C)(C)NS(=O)(=O)C1=CC=C(C=C1)F)=O)C1=CC=CC=C1 | C26H24FN3O3S2
